US04178460
Preparation of α-isopropyl-4-(trifluoromethoxy)phenylacetic acid
A mixture of α-isopropyl-4-trifluoromethoxyphenylacetonitrile (2.0 g), potassium hydroxide (3.0 g) in ethylene glycol (35 ml) and water (3 ml) is heated at 140° C. for 8 hours. The solution is poured into water and extracted with ether (2×10 ml). The aqueous layer is acidified with dilute hydrochloric acid and extracted with ether (3×11 ml), washed with water (1×25 ml), dried (Na2SO4) and evaporated to an oil (1.23 g); IR (neat) 1700 cm-1.

reactant | α-isopropyl-4-trifluoromethoxyphenylacetonitrile | 2.0 g | C(C)(C)C(C#N)C1=CC=C(C=C1)OC(F)(F)F | C12H12F3NO
reactant | potassium hydroxide | 3.0 g | [OH-].[K+]
reactant | ethylene glycol | 35 ml | C(CO)O | C2H6O2
solvent | water | 3 ml | O | H2O
product | α-isopropyl-4-(trifluoromethoxy)phenylacetic acid | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C12H13F3O3
